US04687870
Preparation of a platinum/β-myrcene complex:
The chloroplatinic acid was first dissolved in the isopropanol, NaHCO3 was then added in small portions to avoid the formation of foam, since carbon dioxide was evolved, and the β-myrcene was then added.

reactant | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
reactant | carbon dioxide | C(=O)=O | CO2
reactant | β-myrcene | C=CC(CCC=C(C)C)=C | C10H16
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | platinum β-myrcene | [Pt].C=CC(CCC=C(C)C)=C | InChI=1S/C10H16.Pt/c1-5-10(4)8-6-7-9(2)3;/h5,7H,1,4,6,8H2,2-3H3;
